US06509349B1
8-(3-aminopiperidinyl)-1-ethyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylic acid, ethyl ester
Ethyl-8-chloro-1-ethyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate (Precursor A) (0.05 g) is dissolved in acetonitrile (3 ml) and triethylamine (0.3 ml). To this solution is added 3-S-aminopiperidine dihydrochloride (Precursor E) (0.055 g) and the mixture is stirred at 40° C. for five days. The reaction mixture is evaporated and the desired product obtained by recrystallization in isopropyl alcohol.

reactant | Ethyl-8-chloro-1-ethyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate | C(C)OC(=O)C1=CC(=C2C(=C(C=CN2C1=O)Cl)OC)CC | C15H16ClNO4
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | 8-(3-aminopiperidinyl)-1-ethyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylic acid, ethyl ester | NC1CN(CCC1)C=1C=CN2C(C(=CC(=C2C1OC)CC)C(=O)OCC)=O | C20H27N3O4
